### PR TITLE
chore: remove explicit universes from `EStateM` results

### PR DESCRIPTION
**Pull request by eric-wieser**
This makes the code work both with and without leanprover/lean4#3010, making it easier to test/merge/revert that PR.

Right now the files are inconsistent regarding the use of implicit universe arguments, and so with the Lean change above, the downstream file ends up more general than the upstream one.

### CODE REVIEW

File: Batteries/Lean/EStateM.lean [hunk 1]
```diff
@@ -9,22 +9,22 @@ namespace EStateM
 namespace Result
 
 /-- Map a function over an `EStateM.Result`, preserving states and errors. -/
-def map {ε σ α β : Type u} (f : α → β) (x : Result ε σ α) : Result ε σ β :=
+def map {ε σ α β} (f : α → β) (x : Result ε σ α) : Result ε σ β :=
```
[the remark this answers is not in the document]
Comment (eric-wieser) [reply Batteries/Lean/EStateM.lean:12]: The proofs no longer compile if I make this change globally. I think the idea here is to put the arguments in a convenient order, which autoImplicits do not.

File: Batteries/Lean/EStateM.lean [hunk 2]
```diff
@@ -33,7 +33,7 @@ end Result
 @[simp] theorem run_map (f : α → β) (x : EStateM ε σ α) :
     (f <$> x).run s = (x.run s).map f := rfl
 
-@[ext] theorem ext {ε σ α : Type u} (x y : EStateM ε σ α) (h : ∀ s, x.run s = y.run s) : x = y := by
+@[ext] theorem ext {ε σ α} (x y : EStateM ε σ α) (h : ∀ s, x.run s = y.run s) : x = y := by
```
Comment (fgdorais) [inline Batteries/Lean/EStateM.lean:36]:
```suggestion
@[ext] theorem ext {ε σ α} {x y : EStateM ε σ α} (h : ∀ s, x.run s = y.run s) : x = y := by
```

File: Batteries/Lean/EStateM.lean [hunk 3]
```diff
@@ -9,22 +9,22 @@ namespace EStateM
...
+@[simp] theorem map_error {ε σ α β} (f : α → β) (e : ε) (s : σ) :
     (Result.error e s : Result ε σ α).map f = .error e s := rfl
 
-@[simp] theorem map_eq_ok {ε σ α β : Type u} (f : α → β) (x : Result ε σ α) (b : β) (s : σ) :
+@[simp] theorem map_eq_ok {ε σ α β} (f : α → β) (x : Result ε σ α) (b : β) (s : σ) :
     x.map f = .ok b s ↔ ∃ a, x = .ok a s ∧ b = f a := by
   cases x <;> simp [and_assoc, and_comm, eq_comm]
 
-@[simp] theorem map_eq_error {ε σ α β : Type u} (f : α → β) (x : Result ε σ α) (e : ε) (s : σ) :
+@[simp] theorem map_eq_error {ε σ α β} (f : α → β) (x : Result ε σ α) (e : ε) (s : σ) :
```
Comment (fgdorais) [inline Batteries/Lean/EStateM.lean:27]:
```suggestion
@[simp] theorem map_eq_error {ε σ α β} (f : α → β) {x : Result ε σ α} {e : ε} {s : σ} :
```

File: Batteries/Lean/EStateM.lean [hunk 4]
```diff
@@ -9,22 +9,22 @@ namespace EStateM
...
-@[simp] theorem map_ok {ε σ α β : Type u} (f : α → β) (a : α) (s : σ) :
+@[simp] theorem map_ok {ε σ α β} (f : α → β) (a : α) (s : σ) :
     (Result.ok a s : Result ε σ α).map f = .ok (f a) s := rfl
 
-@[simp] theorem map_error {ε σ α β : Type u} (f : α → β) (e : ε) (s : σ) :
+@[simp] theorem map_error {ε σ α β} (f : α → β) (e : ε) (s : σ) :
     (Result.error e s : Result ε σ α).map f = .error e s := rfl
 
-@[simp] theorem map_eq_ok {ε σ α β : Type u} (f : α → β) (x : Result ε σ α) (b : β) (s : σ) :
+@[simp] theorem map_eq_ok {ε σ α β} (f : α → β) (x : Result ε σ α) (b : β) (s : σ) :
```
Comment (fgdorais) [inline Batteries/Lean/EStateM.lean:23]:
```suggestion
@[simp] theorem map_eq_ok {ε σ α β} {f : α → β} {x : Result ε σ α} {b : β} {s : σ} :
```

**Review by fgdorais — CHANGES_REQUESTED** [review]

File: Batteries/Lean/EStateM.lean (hunk 2 above)
Comment (eric-wieser) [reply Batteries/Lean/EStateM.lean:36]: What do you think about using `⦃⦄` binders for the `ext` lemmas? There's some precedent for that, as it means that these can be type-cast as `Function.Injective`?

Comment (fgdorais) [reply Batteries/Lean/EStateM.lean]: In what sense does this math `Function.Injective`? I see `(fun s => x.run s) = (fun s => y.run s) -> x = y` but that doesn't seem very useful. I'm probably missing something.

Comment (eric-wieser) [reply Batteries/Lean/EStateM.lean]: In precisely that sense. Agreed that it isn't very useful here (which is why I took your suggestion), but it's useful in some cases and mostly harmless in the rest, so perhaps sensible as a general pattern to consider in the future.

**Review by fgdorais — APPROVED** [review]
